US04968804
(e) 2-cyano-4-(3-cyanophenyl)-pyrimidine
A mixture of 4-(3-cyanophenyl)-2-methylsulfonylpyrimidine and potassium cyanide in N,N-dimethylformamide is stirred for 4 hours at 100° . The reaction mixture is concentrated by evaporation, distilled water is added thereto and the whole is extracted with methylene chloride. The organic phase is dried and concentrated by evaporation to give the title compound.

reactant | 4-(3-cyanophenyl)-2-methylsulfonylpyrimidine | C(#N)C=1C=C(C=CC1)C1=NC(=NC=C1)S(=O)(=O)C | C12H9N3O2S
reactant | potassium cyanide | [C-]#N.[K+]
solvent | N,N-dimethylformamide | CN(C=O)C | C3H7NO
product | 2-cyano-4-(3-cyanophenyl)-pyrimidine | C(#N)C1=NC=CC(=N1)C1=CC(=CC=C1)C#N | C12H6N4
